US08895736B1
Synthesis of (3E)-N-((E)-3-(benzylimino)-2-nitropropylidene)(phenyl)methanamine (Compound I1)
A turbid, yellow-orange solution of sodium nitromalonaldehyde monohydrate (15.7 mg, 0.10 mmol) in DMF (275 uL) and water (25 uL) was added dropwise over a 2 min period to a solution of benzylamine (27.4 uL, 0.25 mmol) in DMF (165 uL), water (15 uL) and 96% formic acid (0.94 uL, 0.025 mmol) and was stirred at room-temperature for 24 h. A few drops of the reaction mixture were added to ˜1 mL water giving a white, opaque emulsion that was extracted with EtOAc twice. The combined organics were dried over Na2SO4, evaporated under N2 and dried in vacuo at room-temperature to give 3.0 mg of the crude title compound (I1) as a pale-pink residue (3.0 mg, 10% crude yield); HRMS calcd for C17H18N3O2 (M+H+) 296.13990, obsd 296.13733 (100%); 1H NMR (300 MHz, DMSO-d6) δ 4.719 (s, 4H), 7.274-7.304 (m, 10H), 8.898 (s, 2H), ˜11.7 (br s, 1H).

reactant | sodium nitromalonaldehyde monohydrate | 0.10 mmol, 15.7 mg | O.[N+](=O)([O-])C(C=O)C=O.[Na]
reactant | benzylamine | 0.25 mmol, 27.4 uL | C(C1=CC=CC=C1)N | C7H9N
reactant | formic acid | 0.025 mmol, 0.94 uL | C(=O)O | CH2O2
solvent | DMF | 275 uL | CN(C)C=O | C3H7NO
solvent | water | 25 uL | O | H2O
solvent | DMF | 165 uL | CN(C)C=O | C3H7NO
solvent | water | 15 uL | O | H2O
solvent | water | ˜1 mL | O | H2O
product | (3E)-N-((E)-3-(benzylimino)-2-nitropropylidene)(phenyl)methanamine | 3.0 mg | C(C1=CC=CC=C1)\N=C\C(\C=N\CC1=CC=CC=C1)[N+](=O)[O-] | C17H17N3O2
